US06352982B1
A solution of N-methyl-N-methyloxy-2-amino-5-chlorobenzamide (2 g) and 2-(3-bromophenyl)-1,3-dioxolane (2.1 g) in tetrahydrofuran (65 ml) was cooled to −78° C. To the solution was added dropwise gradually a hexane solution of n-butyl lithium (1.6 mol/L)(11.6 ml). To the mixture were added water (300 ml) and acetic acid ethyl ester (50 ml). The organic layer was washed with water and dried over anhydrous Na2SO4, then the solvent was distilled off. The residue was purified by means of a silica gel column chromatography to give 2-[3-(2-amino-5-chlorobenzoyl)phenyl-1,3-dioxolane (1.6 g) as a colorless oily compound.

reactant | N-methyl-N-methyloxy-2-amino-5-chlorobenzamide | 2 g | CN(C(C1=C(C=CC(=C1)Cl)N)=O)OC | C9H11ClN2O2
reactant | 2-(3-bromophenyl)-1,3-dioxolane | 2.1 g | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6 mol/L, 11.6 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | acetic acid ethyl ester | 50 ml | C(C)OC(C)=O | C4H8O2
solvent | water | 300 ml | O | H2O
product | 3-(2-amino-5-chlorobenzoyl)phenyl-1,3-dioxolane | 1.6 g | NC1=C(C(=O)C=2C=C(C=CC2)C2OCCO2)C=C(C=C1)Cl | C16H14ClNO3
